US05880157
N-Phenyl-2,2,3,3-tetramethylcyclopropanecarboxamide
A solution of 2,2,3,3-tetramethylcyclopropanecarbonyl chloride (1.60 g, 10 mmole) in CH2Cl2 (5 ml) was added dropwise to a solution of aniline (2.8 g, 30 mmole) in CH2Cl2 (10 ml), while maintaining the temperature at 10°-20° C. The reaction mixture was stirred for 6 hours at room temperature, diluted with CH2Cl2 (15 ml) and washed successively with H2O (2×10 ml), 1N HCl (2×10 ml), H2O (20 ml) saturated NaCl (2×15 ml). The organic layer was separated, dried over MgSO4, and evaporated to dryness under reduced pressure. The residue was crystallized from EtOAc/hexane to afford 1.1 g (5.07 mmole, 51%) of a white crystalline solid), m.p. 149° C.

reactant | 2,2,3,3-tetramethylcyclopropanecarbonyl chloride | 10 mmole, 1.60 g | CC1(C(C1(C)C)C(=O)Cl)C | C8H13ClO
reactant | aniline | 30 mmole, 2.8 g | NC1=CC=CC=C1 | C6H7N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | N-Phenyl-2,2,3,3-tetramethylcyclopropanecarboxamide | 5.07 mmole, 1.1 g, 51% | C1(=CC=CC=C1)NC(=O)C1C(C1(C)C)(C)C | C14H19NO
